US06083986
A solution of trans-1-benzamido-2-acetoxy-6-nitroindane (one part), prepared as described in Preparation 2, in EtOAc is treated with H2 (60 psi) in the presence of PtO2 for several hours. The catalyst is removed and the solvent evaporated to give trans-1-benzamido-2-acetoxy-6-aminoindane. A solution of this aminoindane (1 part) in a mixture of pyridine (16 parts), 4-dimethylaminopyridine (0.15 parts), and CH2Cl2 is treated with a solution of an aroyl (RCOCl) chloride (1.2 parts) and the reaction stirred over night. The reaction is poured into ice-water, the organic layer separated and consecutively washed with saturated aqueous sodium bicarbonate and brine. The organics are dried and the solvent evaporated to give trans-1-benzamido-2-acetoxy-6-carboxamino-indane. A solution of this indane in 1 M NaOH in methanol was stirred over night. The reaction is poured into ice-water and extracted with CH2Cl2. The organic extracts are washed with brine, dried, and the solvent evaporated to give the trans-1-benzamido-2-hydroxy-6-carboxamnido-indane.

reactant | trans-1-benzamido-2-acetoxy-6-nitroindane | C(C1=CC=CC=C1)(=O)N[C@H]1[C@@H](CC2=CC=C(C=C12)[N+](=O)[O-])OC(C)=O | C18H16N2O5
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PtO2 | O=[Pt]=O
product | trans-1-benzamido-2-acetoxy-6-aminoindane | C(C1=CC=CC=C1)(=O)N[C@H]1[C@@H](CC2=CC=C(C=C12)N)OC(C)=O | C18H18N2O3
